US04746350
Terephthalaldehyde (10 g) was dissolved in acetone (200 ml) and the solution was added dropwise with stirring into a mixture of water (2.5 1), ice (1.5 kg) and 10 percent aqueous sodium hydroxide solution (20 ml). The mixture was stirred at room temperature for 3 days and then the yellow solid was removed by filtration. The crude product was taken up into ethyl acetate (1 1) and dried over sodium sulfate. Removal of the drying agent by filtration and evaporation of the filtrate gave 1,4-bis(but-1-ene-3-one-1-yl)benzene (12.2 g, 76%) as a yellow solid, mp 155° C.

reactant | Terephthalaldehyde | 10 g | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | water | O | H2O
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1,4-bis(but-1-ene-3-one-1-yl)benzene | 12.2 g, 76% | C(=CC(C)=O)C1=CC=C(C=C1)C=CC(C)=O | C14H14O2
